US07456200B2
Ethanol (2 ml) was added to round bottom flask containing 3-fluoro-5-hydroxymethyl-benzoic acid methyl ester (667 mg, 3.6 mmol) and palladium (10 wt. % on activated carbon, 300 mg) under argon. The flask was evacuated using a water aspirator and then filled with hydrogen from a balloon. After stirring for 2 h, the palladium on carbon was removed by filtration through celite. The filtrate was then concentrated to afford 520 mg (87%) of 3-fluoro-5-methyl-benzoic acid methyl ester. 1H NMR (CDCl3), δ (ppm): 7.65 (s, 1H), 7.51 (d, 1H), 7.08 (d, 1H), 3.91 (s, 3H), 2.40 (s, 3H).

reactant | 3-fluoro-5-hydroxymethyl-benzoic acid methyl ester | 3.6 mmol, 667 mg | COC(C1=CC(=CC(=C1)CO)F)=O | C9H9FO3
catalyst | palladium | 300 mg | [Pd] | Pd
solvent | Ethanol | 2 ml | C(C)O | C2H6O
product | 3-fluoro-5-methyl-benzoic acid methyl ester | 520 mg, 87% | COC(C1=CC(=CC(=C1)C)F)=O | C9H9FO2
